US07939552B2
A mixture of ethyl 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenyl-2-butenoate (40.00 g, 92.5 mmol), 5% Pd-carbon (1.00 g) and ethanol (250 mL) was stirred for 20 hours at room temperature in a hydrogen atmosphere. After filtering the catalyst, the solvent was evaporated in vacuo to give ethyl 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenylbutanoate (40.18 g, 100%) as an oily product. 1H-NMR (DMSO-d6) δ: 1.04 (t, J=7.1 Hz, 3H), 2.60 (dd, J=8.0, 15.5 Hz, 1H), 2.81 (dd, J=6.8, 15.5 Hz, 1H), 3.38-3.45 (m, 1H), 3.65 (d, J=6.9 Hz, 2H), 3.94 (q, J=7.1 Hz, 2H), 4.65 and 4.66 (ABq, J=14.1 Hz, 2H), 7.20-7.24 (m, 1H), 7.28-7.32 (m, 4H), 7.90 (s, 2H), 7.99 (s, 1H).

reactant | ethyl 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenyl-2-butenoate | 92.5 mmol, 40.00 g | FC(C=1C=C(COCC(=CC(=O)OCC)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C21H18F6O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd carbon | 1.00 g | [Pd].[C]
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | ethyl 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenylbutanoate | 40.18 g, 100% | FC(C=1C=C(COCC(CC(=O)OCC)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C21H20F6O3
